** sch_path: /foss/designs/ttihp26b-hackin7-analog-experiments/analog/pll/schematic/pll_top.sch
.subckt pll_top clk_ref_gate vco_out_div VGND out VPWR
*.ipin clk_ref_gate
*.ipin vco_out_div
*.iopin VGND
*.opin out
*.iopin VPWR
x1 pfd_up clk_ref_gate VPWR net1 VPWR VGND sg13g2_dfrbpq_1
x2 pfd_down vco_out_div VPWR net1 VPWR VGND sg13g2_dfrbpq_1
x3 net1 pfd_down pfd_up VPWR VGND sg13g2_and2_1
x4 net2 pfd_up VPWR VGND sg13g2_inv_1
XM1 net4 vbp VPWR VPWR sg13_lv_pmos w=1.0u l=1.0u ng=1 m=1 mm_ok=1
XM2 vctrl pfd_down net3 net3 sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1 mm_ok=1
XM3 vctrl net2 net4 net4 sg13_lv_pmos w=0.5u l=0.13u ng=1 m=1 mm_ok=1
XM4 net3 vbn VGND VGND sg13_lv_nmos w=0.5u l=1.0u ng=1 m=1 mm_ok=1
XC1 net15 VGND cap_cmim w=20.0e-6 l=20.0e-6 m=1 mm_ok=1
XR1 vctrl net15 VGND rhigh w=0.50e-6 l=70.0e-6 m=1 b=0 mm_ok=1
XC2 vctrl VGND cap_cmim w=8.0e-6 l=8.0e-6 m=1 mm_ok=1
XMp2 net6 net7 net11 VPWR sg13_lv_pmos w=1.12u l=0.25u ng=1 m=1 mm_ok=1
XMn2 net6 net7 net5 VGND sg13_lv_nmos w=0.74u l=0.25u ng=1 m=1 mm_ok=1
XMp1 net7 net9 net13 VPWR sg13_lv_pmos w=1.12u l=0.25u ng=1 m=1 mm_ok=1
XMn1 net7 net9 net8 VGND sg13_lv_nmos w=0.74u l=0.25u ng=1 m=1 mm_ok=1
XMp3 net9 net6 net14 VPWR sg13_lv_pmos w=1.12u l=0.25u ng=1 m=1 mm_ok=1
XMn3 net9 net6 net10 VGND sg13_lv_nmos w=0.74u l=0.25u ng=1 m=1 mm_ok=1
XMp4 out net6 VPWR VPWR sg13_lv_pmos w=1.12u l=0.25u ng=1 m=1 mm_ok=1
XMn4 out net6 VGND VGND sg13_lv_nmos w=0.74u l=0.25u ng=1 m=1 mm_ok=1
XMp5 net11 net12 VPWR VPWR sg13_lv_pmos w=1.12u l=0.25u ng=1 m=1 mm_ok=1
XMp6 net13 net12 VPWR VPWR sg13_lv_pmos w=1.12u l=0.25u ng=1 m=1 mm_ok=1
XMp7 net14 net12 VPWR VPWR sg13_lv_pmos w=1.12u l=0.25u ng=1 m=1 mm_ok=1
XMn5 net8 vctrl VGND VGND sg13_lv_nmos w=0.74u l=0.25u ng=1 m=1 mm_ok=1
XMn6 net5 vctrl VGND VGND sg13_lv_nmos w=0.74u l=0.25u ng=1 m=1 mm_ok=1
XMn7 net10 vctrl VGND VGND sg13_lv_nmos w=0.74u l=0.25u ng=1 m=1 mm_ok=1
XMp8 net12 net12 VPWR VPWR sg13_lv_pmos w=1.12u l=0.25u ng=1 m=1 mm_ok=1
XMn8 net12 vctrl VGND VGND sg13_lv_nmos w=0.74u l=0.25u ng=1 m=1 mm_ok=1
XM5 vbp vbn VGND VGND sg13_lv_nmos w=0.5u l=1.0u ng=1 m=1 mm_ok=1
XM6 vbn vbn VGND VGND sg13_lv_nmos w=0.5u l=1.0u ng=1 m=1 mm_ok=1
XM7 vbp vbp VPWR VPWR sg13_lv_pmos w=1.0u l=1.0u ng=1 m=1 mm_ok=1
XR2 VPWR vbn VGND rhigh w=0.50e-6 l=260.0e-6 m=1 b=0 mm_ok=1
.ends

* expanding   symbol:  sg13g2_dfrbpq_1.sym # of pins=4
** sym_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_dfrbpq_1.sym
** sch_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_dfrbpq_1.sch
.subckt sg13g2_dfrbpq_1 Q CLK D RESET_B VDD VSS

*.opin Q
*.ipin CLK
*.ipin D
*.ipin RESET_B
XM1 Db D net12 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM2 net12 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM3 net3 clkneg net11 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM4 net11 net1 VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM5 net1 net3 net7 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM6 net7 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM7 net2 net3 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 m=1 mm_ok=1
XM8 Q net2 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 m=1 mm_ok=1
XM9 clkneg CLK VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 m=1 mm_ok=1
XM10 clkpos clkneg VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 m=1 mm_ok=1
XM11 Db clkneg net5 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM12 net5 clkpos net10 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM13 net10 net4 net6 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM14 net6 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM15 net4 net5 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 m=1 mm_ok=1
XM16 net4 clkpos net3 VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 m=1 mm_ok=1
XM17 Db RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM18 Db D VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM19 net9 net1 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM20 net3 clkpos net9 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM21 net1 net3 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM22 net1 RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM23 net2 net3 VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1 m=1 mm_ok=1
XM24 Q net2 VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1 m=1 mm_ok=1
XM25 clkneg CLK VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1 m=1 mm_ok=1
XM26 clkpos clkneg VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1 m=1 mm_ok=1
XM27 Db clkpos net5 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM28 net8 net4 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM29 net5 clkneg net8 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM30 net5 RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 m=1 mm_ok=1
XM31 net4 net5 VDD VDD sg13_lv_pmos w=1.000u l=130.00n ng=1 m=1 mm_ok=1
XM32 net4 clkneg net3 VDD sg13_lv_pmos w=1.000u l=130.00n ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  sg13g2_and2_1.sym # of pins=3
** sym_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_and2_1.sym
** sch_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_and2_1.sch
.subckt sg13g2_and2_1 X A B VDD VSS

*.ipin A
*.ipin B
*.opin X
XM1 net1 A net2 VSS sg13_lv_nmos w=640.00n l=130.00n ng=1 m=1 mm_ok=1
XM2 net2 B VSS VSS sg13_lv_nmos w=640.00n l=130.00n ng=1 m=1 mm_ok=1
XM3 X net1 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 m=1 mm_ok=1
XM4 net1 B VDD VDD sg13_lv_pmos w=840.00n l=130.00n ng=1 m=1 mm_ok=1
XM5 net1 A VDD VDD sg13_lv_pmos w=840.00n l=130.00n ng=1 m=1 mm_ok=1
XM6 X net1 VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  sg13g2_inv_1.sym # of pins=2
** sym_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_inv_1.sym
** sch_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_inv_1.sch
.subckt sg13g2_inv_1 Y A VDD VSS

*.opin Y
*.ipin A
XM1 Y A VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 m=1 mm_ok=1
XM2 Y A VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1 m=1 mm_ok=1
.ends
